### PR TITLE
[Merged by Bors] - feat(MeasureTheory): define contents on semi-rings of sets

### PR DESCRIPTION
**Pull request by RemyDegenne**
- Define additive contents and prove their basic properties on (semi)-rings of sets.
- Define rings of sets.

Co-authored-by: Peter Pfaffelhuber <p.p@stochastik.uni-freiburg.de>

Part of the formalization of the Kolmogorov Extension Theorem.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/AddContent.lean [hunk 1]
```diff
@@ -0,0 +1,185 @@
...
+
+/-!
+# Additive Contents
+
+An additive content `m` on a set of sets `C` is a set function with value 0 at the empty set which
+is finitely additive on `C`. That means that for any finset `I` of pairwise disjoint sets in `C`
+such that `⋃₀ I ∈ C`, `m (⋃₀ I) = ∑ s ∈ I, m s`.
+
+Mathlib also has a definition of contents over compact sets: see `MeasureTheory.Content`.
+A `Content` is in particular an `AddContent` on the set of compact sets.
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/AddContent.lean:16]: What's the long-term goal here? Are you planning to redefine `Content` using `AddContent`? Can you record that as a TODO?

File: Mathlib/MeasureTheory/Measure/AddContent.lean [hunk 2]
```diff
@@ -0,0 +1,185 @@
...
+
+## Main definitions
+
+* `AddContent C`: additive contents over the set of sets `C`.
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/AddContent.lean:20]:
```suggestion
* `MeasureTheory.AddContent C`: additive contents over the set of sets `C`.
```
for the docs

File: Mathlib/MeasureTheory/Measure/AddContent.lean [hunk 3]
```diff
@@ -0,0 +1,185 @@
...
+
+## Main statements
+
+Let `m` be an `AddContent C`. If `C` is a set sem-iring (`IsSetSemiring C`) we have the properties
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/AddContent.lean:24]:
```suggestion
Let `m` be an `AddContent C`. If `C` is a set semiring (`IsSetSemiring C`) we have the properties
```

File: Mathlib/MeasureTheory/Measure/AddContent.lean [hunk 4]
```diff
@@ -0,0 +1,185 @@
...
+  for `t ∈ C`, then `∑ s in I, m s ≤ m t`.
+* `AddContent.mono`: if `s ⊆ t` for two sets in `C`, then `m s ≤ m t`.
+* `AddContent.union'`: if `s, t ∈ C` are disjoint and `s ∪ t ∈ C`, then `m (s ∪ t) = m s + m t`.
+  If `C` is a set ring (`IsSetRing`), then `AddContent.union` gives the same conclusion without the
+  hypothesis `s ∪ t ∈ C` (since it is a consequence of `IsSetRing C`).
+
+If `C` is a set ring (`IsSetRing C`), we have, for `s, t ∈ C`,
+
+* `AddContent.union_le`: `m (s ∪ t) ≤ m s + m t`
+* `AddContent.diff_le`: `m s - m t ≤ m (s \ t)`
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/AddContent.lean:36]:
```suggestion
* `AddContent.le_sdiff`: `m s - m t ≤ m (s \ t)`
```

File: Mathlib/MeasureTheory/Measure/AddContent.lean [hunk 5]
```diff
@@ -0,0 +1,185 @@
...
+variable {α : Type*} {C : Set (Set α)} {s t : Set α} {I : Finset (Set α)}
+
+/-- An additive content is a set function with value 0 at the empty set which is finitely additive
+on a given set of sets. -/
+structure AddContent (C : Set (Set α)) where
+  /-- The value of the content on a set. -/
+  toFun : Set α → ℝ≥0∞
+  empty' : toFun ∅ = 0
+  add' : ∀ (I : Finset (Set α)) (_h_ss : ↑I ⊆ C) (_h_dis : PairwiseDisjoint (I : Set (Set α)) id)
+      (_h_mem : ⋃₀ ↑I ∈ C), toFun (⋃₀ I) = ∑ u in I, toFun u
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/AddContent.lean:55]:
```suggestion
  add' (I : Finset (Set α)) (_h_ss : ↑I ⊆ C) (_h_dis : PairwiseDisjoint (I : Set (Set α)) id)
      (_h_mem : ⋃₀ ↑I ∈ C) : toFun (⋃₀ I) = ∑ u in I, toFun u
```

File: Mathlib/MeasureTheory/Measure/AddContent.lean [hunk 6]
```diff
@@ -0,0 +1,185 @@
...
+  refine Finset.induction ?_ ?_ S
+  · simp
+  · intro i S hiS h hs
+    rw [Finset.sum_insert hiS]
+    simp_rw [← Finset.mem_coe, Finset.coe_insert, Set.biUnion_insert]
+    simp only [Finset.mem_insert, forall_eq_or_imp] at hs
+    refine (m.union_le hC hs.1 (hC.biUnion_mem S hs.2)).trans ?_
+    exact add_le_add le_rfl (h hs.2)
+
+protected lemma diff_le (m : AddContent C) (hC : IsSetRing C) (hs : s ∈ C) (ht : t ∈ C) :
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/AddContent.lean:173]:
```suggestion
protected lemma le_sdiff (m : AddContent C) (hC : IsSetRing C) (hs : s ∈ C) (ht : t ∈ C) :
```

File: Mathlib/MeasureTheory/SetSemiring.lean [hunk 7]
```diff
@@ -275,4 +280,54 @@ end diffFinset₀
 
 end IsSetSemiring
 
+/-- A ring of sets `C` is a family of sets containing `∅`, stable by union and set difference.
+It is then also stable by intersection (see `IsSetRing.inter_mem`). -/
+structure IsSetRing (C : Set (Set α)) : Prop where
+  empty_mem : ∅ ∈ C
+  union_mem : ∀ {s t}, s ∈ C → t ∈ C → s ∪ t ∈ C
+  diff_mem : ∀ {s t}, s ∈ C → t ∈ C → s \ t ∈ C
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/SetSemiring.lean:288]:
```suggestion
  union_mem \{{s t\}} : s ∈ C → t ∈ C → s ∪ t ∈ C
  diff_mem \{{s t\}} : s ∈ C → t ∈ C → s \ t ∈ C
```

File: Mathlib/MeasureTheory/SetSemiring.lean [hunk 8]
```diff
@@ -275,4 +280,54 @@ end diffFinset₀
...
+
+namespace IsSetRing
+
+lemma inter_mem (hC : IsSetRing C) (hs : s ∈ C) (ht : t ∈ C) : s ∩ t ∈ C := by
+  rw [← diff_diff_right_self]; exact hC.diff_mem hs (hC.diff_mem hs ht)
+
+lemma isSetSemiring (hC : IsSetRing C) : IsSetSemiring C :=
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/SetSemiring.lean:295]: Can you not use `where` notation?
```suggestion
lemma isSetSemiring (hC : IsSetRing C) : IsSetSemiring C where
```

File: Mathlib/MeasureTheory/SetSemiring.lean [hunk 9]
```diff
@@ -275,4 +280,54 @@ end diffFinset₀
...
+  · simp
+  · intro i S _ _ h hs
+    simp_rw [← Finset.mem_coe, Finset.coe_cons, Set.biInter_insert]
+    simp only [cons_eq_insert, Finset.mem_insert, forall_eq_or_imp] at hs
+    refine hC.inter_mem hs.1 ?_
+    exact h (fun n hnS ↦ hs.2 n hnS)
+
+end IsSetRing
+
+
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/SetSemiring.lean:332]: Too many linebreaks

File: Mathlib/MeasureTheory/Measure/AddContent.lean [hunk 10]
```diff
@@ -0,0 +1,189 @@
...
+    cases m
+    cases m'
+    congr
+
+namespace AddContent
+
+@[ext] protected lemma ext {m m' : AddContent C} (h : ∀ s, m s = m' s) : m = m' := by
+  refine FunLike.coe_injective ?_
+  ext s
+  exact h s
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/AddContent.lean:79]:
```suggestion
@[ext] protected lemma ext {m m' : AddContent C} (h : ∀ s, m s = m' s) : m = m' := FunLike.ext _ _ h
```

File: Mathlib/MeasureTheory/Measure/AddContent.lean [hunk 11]
```diff
@@ -0,0 +1,189 @@
...
+
+protected lemma ext_iff (m m' : AddContent C) : m = m' ↔ ∀ s, m s = m' s :=
+  ⟨fun h s ↦ by rw [h], fun h ↦ AddContent.ext h⟩
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/AddContent.lean:82]:
```suggestion
  FunLike.ext_iff
```

File: Mathlib/MeasureTheory/Measure/AddContent.lean [hunk 12]
```diff
@@ -0,0 +1,189 @@
...
+
+@[simp] protected lemma empty {m : AddContent C} : m ∅ = 0 := m.empty'
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/AddContent.lean:84]:
```suggestion
@[simp] protected lemma apply_empty {m : AddContent C} : m ∅ = 0 := m.empty'
```
or
```suggestion
@[simp] protected lemma meas_empty {m : AddContent C} : m ∅ = 0 := m.empty'
```
would fit better the existing conventions around `Measure`, maybe?

File: Mathlib/MeasureTheory/Measure/AddContent.lean [hunk 13]
```diff
@@ -0,0 +1,189 @@
...
+
+protected lemma add (m : AddContent C) (h_ss : ↑I ⊆ C)
+    (h_dis : PairwiseDisjoint (I : Set (Set α)) id) (h_mem : ⋃₀ ↑I ∈ C) :
+    m (⋃₀ I) = ∑ u in I, m u :=
+  m.add' I h_ss h_dis h_mem
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/AddContent.lean:89]: This is a weird name since the statement doesn't mention `+` at all! Shouldn't it mention `sUnion` instead?

File: Mathlib/MeasureTheory/Measure/AddContent.lean [hunk 14]
```diff
@@ -73,28 +73,24 @@ instance : FunLike (AddContent C) (Set α) (fun _ ↦ ℝ≥0∞) where
...
 
-protected lemma ext_iff (m m' : AddContent C) : m = m' ↔ ∀ s, m s = m' s :=
-  ⟨fun h s ↦ by rw [h], fun h ↦ AddContent.ext h⟩
+protected lemma ext_iff (m m' : AddContent C) : m = m' ↔ ∀ s, m s = m' s := FunLike.ext_iff
 
-@[simp] protected lemma empty {m : AddContent C} : m ∅ = 0 := m.empty'
+@[simp] protected lemma apply_empty {m : AddContent C} : m ∅ = 0 := m.empty'
 
-protected lemma add (m : AddContent C) (h_ss : ↑I ⊆ C)
+protected lemma sUnion_eq_sum (m : AddContent C) (h_ss : ↑I ⊆ C)
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/AddContent.lean:82]: Okay this is a possibly even more confusing name now. It sounds like you're saying that a union is equal to a sum, but of course what you're really saying is that the **image** of a union is equal to a sum (of the images). I think you won't get away with avoiding `apply` or `meas` in the name.

Comment (RemyDegenne) [reply Mathlib/MeasureTheory/Measure/AddContent.lean:82]: I don't really want to prefix all names in the file with `apply`, though. How about I just call that `addContent.sUnion`?

Comment (RemyDegenne) [reply Mathlib/MeasureTheory/Measure/AddContent.lean:82]: How about I name these lemma the same way it is done for measures: instead of `AddContent.sUnion`, I get it out of the namespace and call it `addContent_sUnion`.

Comment (YaelDillies) [reply Mathlib/MeasureTheory/Measure/AddContent.lean:82]: That's definitely an improvement, but do know that lemmas like `m (a ∩ b) + m (a ∪ b) = m a + m b` will need to be called `addContent_inter_add_addContent_union` (which I think is alright)

Comment (RemyDegenne) [reply Mathlib/MeasureTheory/Measure/AddContent.lean]: If I was naming something as ubiquitous as a measure that would indeed be an issue, but this addContent should not see much use. A few long names is fine.

File: Mathlib/MeasureTheory/Measure/AddContent.lean [hunk 15]
```diff
@@ -0,0 +1,185 @@
...
+  · rw [sum_insert, sum_singleton]
+    simp only [Finset.mem_singleton]
+    refine fun hs_eq_t => hs_empty ?_
+    rw [← hs_eq_t] at h_dis
+    exact Disjoint.eq_bot_of_self h_dis
+
+section IsSetSemiring
+
+lemma addContent_eq_add_diffFinset₀_of_subset (hC : IsSetSemiring C)
+    (hs : s ∈ C) (hI : ↑I ⊆ C) (hI_ss : ⋃₀ ↑I ⊆ s)
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/AddContent.lean:113]: Thinking about it more, shouldn't this be spelled 
```suggestion
    (hs : s ∈ C) (hI : ↑I ⊆ C) (hI_ss : ∀ t ∈ I, t ⊆ s)
```
and elsewhere too?

File: Mathlib/MeasureTheory/SetSemiring.lean [hunk 16]
```diff
@@ -275,4 +280,53 @@ end diffFinset₀
...
+  diff_eq_Union' := by
+    refine fun s hs t ht => ⟨{s \ t}, ?_, ?_, ?_⟩
+    · simp only [coe_singleton, Set.singleton_subset_iff]
+      exact hC.diff_mem hs ht
+    · simp only [coe_singleton, pairwiseDisjoint_singleton]
+    · simp only [coe_singleton, sUnion_singleton]
+
+lemma biUnion_mem {ι : Type*} (hC : IsSetRing C) {s : ι → Set α}
+    (S : Finset ι) (hs : ∀ n ∈ S, s n ∈ C) :
+    (⋃ i ∈ S, s i) ∈ C := by
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/SetSemiring.lean:307]:
```suggestion
    ⋃ i ∈ S, s i ∈ C := by
```
hopefully works

File: Mathlib/MeasureTheory/Measure/AddContent.lean (hunk 15 above)
Comment (RemyDegenne) [reply Mathlib/MeasureTheory/Measure/AddContent.lean:113]: Indeed the simp lemma [Set.sUnion_subset_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Lattice.html#Set.sUnion_subset_iff) says your suggestion should be preferred.

**Review by YaelDillies — APPROVED** [review]
Looks okay to me but I don't have time to check things properly and sign it off. Maybe @sgouezel can?

File: Mathlib/MeasureTheory/Measure/AddContent.lean [hunk 17]
```diff
@@ -0,0 +1,184 @@
...
+namespace MeasureTheory
+
+variable {α : Type*} {C : Set (Set α)} {s t : Set α} {I : Finset (Set α)}
+
+/-- An additive content is a set function with value 0 at the empty set which is finitely additive
+on a given set of sets. -/
+structure AddContent (C : Set (Set α)) where
+  /-- The value of the content on a set. -/
+  toFun : Set α → ℝ≥0∞
+  empty' : toFun ∅ = 0
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/AddContent.lean:56]: can't this property be deduced from `sUnion'` (by taking the empty set)? If so, remove it from the definition, and prove it separately.

File: Mathlib/MeasureTheory/Measure/AddContent.lean [hunk 18]
```diff
@@ -0,0 +1,184 @@
...
+  FunLike.ext_iff
+
+@[simp] lemma addContent_empty : m ∅ = 0 := m.empty'
+
+lemma addContent_sUnion (h_ss : ↑I ⊆ C)
+    (h_dis : PairwiseDisjoint (I : Set (Set α)) id) (h_mem : ⋃₀ ↑I ∈ C) :
+    m (⋃₀ I) = ∑ u in I, m u :=
+  m.sUnion' I h_ss h_dis h_mem
+
+lemma addContent_union' (hs : s ∈ C) (ht : t ∈ C) (hst : s ∪ t ∈ C)(h_dis : Disjoint s t) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/AddContent.lean:89]:
```suggestion
lemma addContent_union' (hs : s ∈ C) (ht : t ∈ C) (hst : s ∪ t ∈ C) (h_dis : Disjoint s t) :
```

File: Mathlib/MeasureTheory/Measure/AddContent.lean [hunk 19]
```diff
@@ -0,0 +1,184 @@
...
+# Additive Contents
+
+An additive content `m` on a set of sets `C` is a set function with value 0 at the empty set which
+is finitely additive on `C`. That means that for any finset `I` of pairwise disjoint sets in `C`
+such that `⋃₀ I ∈ C`, `m (⋃₀ I) = ∑ s ∈ I, m s`.
+
+Mathlib also has a definition of contents over compact sets: see `MeasureTheory.Content`.
+A `Content` is in particular an `AddContent` on the set of compact sets.
+
+TODO: refactor `Content` to use properties of `AddContent`.
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/AddContent.lean:18]: Is that really possible? compact sets don't form a semiring of sets, right?

File: Mathlib/MeasureTheory/Measure/AddContent.lean [hunk 20]
```diff
@@ -0,0 +1,184 @@
...
+  · exact add_le_add le_rfl
+      (addContent_mono hC.isSetSemiring (hC.diff_mem ht hs) ht (diff_subset _ _))
+  · rw [Set.disjoint_iff_inter_eq_empty, inter_diff_self]
+
+lemma addContent_biUnion_le {ι : Type*} (hC : IsSetRing C) {s : ι → Set α}
+    {S : Finset ι} (hs : ∀ n ∈ S, s n ∈ C) :
+    m (⋃ i ∈ S, s i) ≤ ∑ i in S, m (s i) := by
+  classical
+  revert hs
+  refine Finset.induction ?_ ?_ S
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/AddContent.lean:165]: You can use `induction'` here to avoid reverting. Something like
```
  induction' S using Finset.induction with a S ha ih
```
Same thing elsewhere.

File: Mathlib/MeasureTheory/Measure/AddContent.lean (hunk 19 above)
Comment (RemyDegenne) [reply Mathlib/MeasureTheory/Measure/AddContent.lean:18]: Right. Content is an AddContent, but if I only prove properties of AddContent on semi-rings of sets I can't use any of that to deduce properties of Content since compacts are not a semi-ring of sets. I'll just remove that todo.

File: Mathlib/MeasureTheory/Measure/AddContent.lean (hunk 17 above)
Comment (RemyDegenne) [reply Mathlib/MeasureTheory/Measure/AddContent.lean:56]: That only works if the empty set is in C. I'd rather not have conditions on C in the definition of AddContent.

**Comment by sgouezel** [comment]
bors r+
Thanks!
